US05885986
A solution of 3.0 g (0.010 mol) of 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylic acid prop-2-ynylamide in 180 ml of acetic acid was treated with 3.36 g (0.015 mol) of N-iodosuccinimide while gassing with argon. After stirring at room temperature for 45 hrs. the dark suspension obtained was completely freed from the solvents and dried azeotropically several times with toluene. The black-brown solid residue was suspended in 200 ml of THF, treated with 13.7 ml (0.10 mol) of dipropylamine and stirred at room temperature for 17 hrs. The suspension obtained was completely freed from the solvents, the residue was partitioned between ethyl acetate and 1N aqueous hydrochloric acid and extracted. The aqueous-acidic phase was made basic and extracted with ethyl acetate. The organic phase was concentrated, the orange-brownish product was chromatographed over basic Alox (grade III) with dichloromethane/ethyl acetate 4:1 as the eluent and recrystallized from hot isopropyl ether. There were obtained 1.14 g (29%) of 3-(5-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]-diazepin-6-one as yellowish crystals; m.p. 142°-144°.

reactant | 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylic acid prop-2-ynylamide | 0.010 mol, 3.0 g | C(C#C)NC(=O)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | C14H12N4O2S
reactant | N-iodosuccinimide | 0.015 mol, 3.36 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | dipropylamine | 0.10 mol, 13.7 ml | C(CC)NCCC | C6H15N
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
product | 3-(5-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]-diazepin-6-one | 1.14 g, 29% | C(CC)N(CCC)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | C20H25N5O2S
